US04346161
H. 2-Cyanoethyl 3-diethylamino-2-[N-(2,2,2-trichloroethoxycarbonyl)thiocarbamoyl]acrylate
A mixture of 55.4 g (0.57 moles) of potassium thiocyanate, 1 g of 18-crown-6 cyclic ether, 80.5 g (0.38 moles) of 2,2,2-trichloroethyl chloroformate and 300 ml of toluene was heated for 3 hours at 50° C. to prepare the acyl isothiocyanate. The mixture was filtered and 74 g (0.38 moles) of 2-cyanoethyl trans-3-diethylaminoacrylate were added dropwise over one hour. After 24 hours at room temperature, the mixture was filtered to give 108 g of crude material which was recrystallized from toluene to give 63 g of pure adduct, melting point 116° to 118° C.

reactant | potassium thiocyanate | 0.57 moles, 55.4 g | [S-]C#N.[K+]
reactant | 2,2,2-trichloroethyl chloroformate | 0.38 moles, 80.5 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2-cyanoethyl trans-3-diethylaminoacrylate | 0.38 moles, 74 g | C(C)N(/C=C/C(=O)OCCC#N)CC | C10H16N2O2
catalyst | 18-crown-6 | 1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyanoethyl 3-diethylamino-2-[N-(2,2,2-trichloroethoxycarbonyl)thiocarbamoyl]acrylate | 63 g | C(C)N(C=C(C(=O)OCCC#N)C(NC(=O)OCC(Cl)(Cl)Cl)=S)CC | C14H18Cl3N3O4S
